US08859572B2
Intermediate E: Preparation of 4-[(3-chloropropyl)sulfonyl]morpholine
The procedure used for the preparation of Intermediate D was used to prepare the title compound from 3-chloropropanesulfonyl chloride and morpholine. High vacuum drying gave the title compound (1.3 g, 104%): 1H NMR (CDCl3) δ: 2.20-2.29 (2H, m), 3.02 (2H, dd), 3.20-3.23 (4H, m), 3.64 (2H, t), 3.68-3.72 (4H, m).

reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-[(3-chloropropyl)sulfonyl]morpholine | ClCCCS(=O)(=O)N1CCOCC1 | C7H14ClNO3S
